US05616774
(A) 2,6-Di-tert-butyl-4-[4-nitro-α-(piperidin-1-yl)benzyl]phenol
A mixture of 2.1 g (0.01 mol) of 2,6-di-tert-butylphenol, 1.51 g (0.01 mol) of 4-nitrobenzaldehyde and 0.9 g (0.0105 mol) of piperidine is refluxed under nitrogen in 15 ml n-butanol for 24 hours. The solution is then evaporated in vacuo. The residue is then chromatographed on silica gel with hexane:ethyl acetate (4:1 ). The pure fractions are recrystallized from acetonitrile to give 1.0 g of the title compound as pale yellow crystals, melting at 147° -148° C.

reactant | 2,6-di-tert-butylphenol | 0.01 mol, 2.1 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | 4-nitrobenzaldehyde | 0.01 mol, 1.51 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | piperidine | 0.0105 mol, 0.9 g | N1CCCCC1 | C5H11N
solvent | n-butanol | 15 ml | C(CCC)O | C4H10O
product | 2,6-Di-tert-butyl-4-[4-nitro-α-(piperidin-1-yl)benzyl]phenol | 1.0 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])N1CCCCC1)C(C)(C)C)O | C26H36N2O3
